US07786121B2
To a solution of piperazine-1-carboxylic acid tert-butyl ester (521 mg, 2.8 mmol) in DCM (6 ml) was added NEt3 (547 μl, 3.92 mmol, 1.4 eq.) and 4-trifluoromethoxy-benzenesulfonyl chloride (880 mg, 3.36 mmol, 1.2 eq.). The reaction mixture was stirred at room temperature for 12 hrs. The excess of sulfonyl chloride was quenched by addition of trisamine resin (150 mg), and subsequent stirring for 2 hrs. The resin was then filtered off, and NaHCO3 sat (5 ml) was added. Filtration of the resulting mixture through hydrophobic catridge and subsequent removal of the solvent under reduced pressure afforded the desired 4-(4-trifluoromethoxy-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester in quantitative yield.

reactant | piperazine-1-carboxylic acid tert-butyl ester | 2.8 mmol, 521 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | NEt3 | 3.92 mmol, 547 μl, 1.4 eq. | CCN(CC)CC | C6H15N
reactant | 4-trifluoromethoxy-benzenesulfonyl chloride | 3.36 mmol, 880 mg, 1.2 eq. | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-trifluoromethoxy-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C16H21F3N2O5S
